US04950677
2.0 g of 5-fluoro-2-[[(4-methoxy-3-methyl-2-pyridyl)methyl]thio]benzimidazole dissolved in 100 ml of methylene chloride were treated with 1.2 g of potassium carbonate. 1.6 g of m-chloroperbenzoic acid were added thereto at -30°, the solution was stirred for a further 5 minutes and subsequently poured into a mixture of 30 ml of saturated sodium bicarbonate solution and 30 ml of water. The organic phase was separated, dried over sodium sulfate, treated with 5.0 ml of triethylamine and evaporated in a vacuum. Crystallization of the residue from methylene chloride/petroleum ether (low boiling)/ether gave 5-fluoro-2-[[(4-methoxy-3-methyl-2-pyridyl)methyl]sulfinyl]benzimidazole of melting point 175°.

reactant | 5-fluoro-2-[[(4-methoxy-3-methyl-2-pyridyl)methyl]thio]benzimidazole | 2.0 g | FC1=CC2=C(N=C(N2)SCC2=NC=CC(=C2C)OC)C=C1 | C15H14FN3OS
reactant | potassium carbonate | 1.2 g | C([O-])([O-])=O.[K+].[K+]
reactant | m-chloroperbenzoic acid | 1.6 g | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
reactant | sodium bicarbonate | 30 ml | C([O-])(O)=O.[Na+]
solvent | methylene chloride | 100 ml | C(Cl)Cl | CH2Cl2
solvent | water | 30 ml | O | H2O
product | 5-fluoro-2-[[(4-methoxy-3-methyl-2-pyridyl)methyl]sulfinyl]benzimidazole | FC1=CC2=C(N=C(N2)S(=O)CC2=NC=CC(=C2C)OC)C=C1 | C15H14FN3O2S
